US04255182
Preparation of 2-acetamido-5-mercapto-1,3,4-thiadiazole
Polyphosphoric acid (190 grams) and acetic acid (406 grams) were charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and heated, with stirring, to 100° C. To this heated, stirred mixture was then added 2-amino-5-mercapto-1,3,4-thiadiazole (250 grams). Stirring was continued for an additional hour at a temperature of 120° C. The reaction mixture was then cooled to 60° C. and poured over ice. A precipitate formed which was filtered and air dried to yield the desired product 2-acetamido-5-mercapto-1,3,4-thiadiazole having a melting point greater than 290° C.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 250 grams | NC=1SC(=NN1)S | C2H3N3S2
reactant | acetic acid | 406 grams | C(C)(=O)O | C2H4O2
product | 2-acetamido-5-mercapto-1,3,4-thiadiazole | C(C)(=O)NC=1SC(=NN1)S | C4H5N3OS2
